US05834463
9-(2-Phenylethyl)-2,3,9,10a-tetrahydrobenzo[b]-cyclopenta[e][1,4]diazepin-10(1H)-one
A solution of 2,3,9,10a-tetrahydrobenzo[b]-cyclopenta[e][1,4]diazepin-10(1H)-one (5.01 g, 25 mmol) in N,N-dimethylformamide (30 mL) was cooled to 0° C. To the solution was added sodium hydride (60% liquid paraffin dispersion, 1.0 g, 25 mmol). The mixture was stirred for 5 minutes at the same temperature and for 10 minutes at room temperature. To this solution was added a solution of 2-(bromoethyl)benzene (5.09 g, 27.5 mmol) in N,N-dimethylformamide (1 mL), and the mixture was stirred for 2.5 hours at room temperature. The reaction mixture was poured into a saturated aqueous solution of ammonium chloride (40 mL), which was diluted with water, followed by extraction twice with ethyl acetate. Organic layers were combined and washed with water and a saturated aqueous solution of sodium chloride, which was dried by allowing to pass through magnesium sulfate and silica-gel, followed by concentration under reduced pressure. Unreacted diazepinone was allowed to crystallize, and most portion of which was removed. The remainder was purified by silica-gel column chromatography (hexane-ethyl acetate 20:1, later 5:1), followed by recrystallization from ethyl acetate-hexane to afford the titled compound (2.37 g, 31%), m.p.101°-102° C.

reactant | 2,3,9,10a-tetrahydrobenzo[b]-cyclopenta[e][1,4]diazepin-10(1H)-one | 25 mmol, 5.01 g | C1CCC2=NC3=C(NC(C21)=O)C=CC=C3 | C12H12N2O
reactant | sodium hydride | 25 mmol, 1.0 g | [H-].[Na+]
reactant | 2-(bromoethyl)benzene | 27.5 mmol, 5.09 g | BrCCC1=CC=CC=C1 | C8H9Br
reactant | ammonium chloride | 40 mL | [Cl-].[NH4+]
solvent | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 9-(2-Phenylethyl)-2,3,9,10a-tetrahydrobenzo[b]-cyclopenta[e][1,4]diazepin-10(1H)-one | 2.37 g, 31% | C1(=CC=CC=C1)CCN1C2=C(N=C3C(C1=O)CCC3)C=CC=C2 | C20H20N2O
